US04764623
To a 0° C. solution of 2-[(4-amino)phenyl]ethanol (25 g), diisopropylethylamine (23.9 g) and dichloromethane (400 mL) was added heptafluorobutyryl chloride (41.8 g) dropwise over 0.5 hour. The mixture was allowed to warm gradually to room temperature and stirred for 2 hours. The precipitate was filtered off and the filtrate was diluted with ethylacetate (100 mL), washed with water (3×500 mL), dried over sodium sulfate, filtered and concentrated with a rotary evaporator. The residue was triturated with dichloromethane and collected by filtration. The combined solids were dissolved in diethyl ether and washed with water and saturated aqueous sodium chloride solutions, dried over sodium sulfate, filtered and concentrated to give 2,2,3,3,4,4,4-heptafluoro-N-[4-(2-hydroxyethyl)phenyl]butanamide as a white solid (39.2 g).

reactant | 2-[(4-amino)phenyl]ethanol | 25 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | diisopropylethylamine | 23.9 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | heptafluorobutyryl chloride | 41.8 g | FC(C(C(=O)Cl)(F)F)(C(F)(F)F)F | C4ClF7O
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 2,2,3,3,4,4,4-heptafluoro-N-[4-(2-hydroxyethyl)phenyl]butanamide | 39.2 g | FC(C(=O)NC1=CC=C(C=C1)CCO)(C(C(F)(F)F)(F)F)F | C12H10F7NO2
